US09302991B2
<Step-1>: 2-amino-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide
The title compound is prepared in 22% yield (42 mg, a white solid) from (6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride (140 mg, 0.58 mmol) and 2-aminopyrimidine-4-carboxylic acid (80 mg, 0.58 mmol) by the similar manner in Step-1 of Example 8.

reactant | (6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methanamine hydrochloride | 0.58 mmol, 140 mg | Cl.FC(COC1=CC=C(C=N1)CN)(F)F
reactant | 2-aminopyrimidine-4-carboxylic acid | 0.58 mmol, 80 mg | NC1=NC=CC(=N1)C(=O)O | C5H5N3O2
product | 2-amino-N-((6-(2,2,2-trifluoroethoxy)pyridin-3-yl)methyl)pyrimidine-4-carboxamide | 22% yield | NC1=NC=CC(=N1)C(=O)NCC=1C=NC(=CC1)OCC(F)(F)F | C13H12F3N5O2
